US09216173B2
To a solution of tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(methylsulfonyl)propan-2-yl]carbamate (10.0 g, 26.2 mmol) in ethanol (150 mL) was added dropwise hydrazine hydrate (15.7 g, 262 mmol) at 0° C., and the reaction mixture was allowed to warm to ambient temperature. After 30 minutes, the reaction mixture was heated to reflux. After two hours, the reaction mixture was cooled, filtered, and concentrated under reduced pressure. The residue was purified via chromatography on silica gel to afford tert-butyl [1-amino-3-(methylsulfonyl)propan-2-yl]carbamate. MS ESI calc'd. for C9H21N2O4S [M+H]+ 253. found 253. 1H NMR (400 MHz, CD3OD) δ 4.06-4.00 (m, 1H), 3.30-3.27 (m, 2H), 3.00 (s, 3H), 2.82-2.69 (m, 2H), 1.44 (s, 9H).

reactant | tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(methylsulfonyl)propan-2-yl]carbamate | 26.2 mmol, 10.0 g | O=C1N(C(C2=CC=CC=C12)=O)CC(CS(=O)(=O)C)NC(OC(C)(C)C)=O | C17H22N2O6S
reactant | hydrazine hydrate | 262 mmol, 15.7 g | O.NN
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | tert-butyl [1-amino-3-(methylsulfonyl)propan-2-yl]carbamate | NCC(CS(=O)(=O)C)NC(OC(C)(C)C)=O | C9H20N2O4S
